US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (60 mg, 0.09 mmol) in THF (2 mL) was added polystyrene-carbodiimide (156 mg, 0.18 mmol), 1-hydroxybenzotriazole hydrate (24 mg, 0.18 mmol) and 1-phenylpiperazine (21 mg, 0.13 mmol). The reaction mixture was stirred at room temperature under nitrogen for 5 h. The reaction was filtered through a micro filter and concentrated. The crude material was purified by preparative TLC (silica gel, 90:10 dichloromethane/methanol) to afford a dark red solid. The solid was dissolved in methanol (1 mL) and treated with HCl (1.25 M solution in methanol, 0.5 mL) at 0° C. The solution was concentrated and triturated with diethyl ether to afford (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-2-(4-phenylpiperazine-1-carbonyl)-6,6a-dihydrobenzo[a]tetracene-7,9,12,14(5H,14aH)-tetraone hydrochloride as a mixture of diastereomers (9.0 mg, 25%) and as a red solid: 1H NMR (500 MHz, CD3OD) δ 8.10 (s, 1H), 7.60-7.20 (m, 5H), 6.70 (s, 1H), 6.20-6.10 (m, 0.3H), 6.04-5.95 (m, 0.7H), 5.49 (s, 1H), 4.96-4.85 (m, 1H), 4.18-4.08 (m, 1H), 4.05-3.89 (m, 1H), 3.78-3.62 (m, 7H), 3.54 (s, 3H), 3.61-3.52 (m, 2H), 3.51-3.41 (m, 7H), 3.27-3.16 (m, 1H), 3.09-2.90 (m, 1H), 3.16 (s, 3H), 1.30-1.20 (m, 3H); MS (ESI−) m/z 826 (M−H); HPLC 94.2% (AUC), tR 11.89 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.09 mmol, 60 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 0.18 mmol, 24 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-phenylpiperazine | 0.13 mmol, 21 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | HCl | 1.25 M, 0.5 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-2-(4-phenylpiperazine-1-carbonyl)-6,6a-dihydrobenzo[a]tetracene-7,9,12,14(5H,14aH)-tetraone hydrochloride | Cl.OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)N2CCN(CC2)C2=CC=CC=C2 | InChI=1S/C43H45N3O14.ClH/c1-19-15-21-16-27(48)43(59-5)39(54)30-24(17-23-29(33(30)50)26(47)18-25(32(23)49)44-40-37(58-4)35(52)36(57-3)20(2)60-40)38(53)42(43,56)31(21)34(51)28(19)41(55)46-13-11-45(12-14-46)22-9-7-6-8-10-22;/h6-10,15,17-18,20,27,35-37,40,44,48,50-52,56H,11-14,16H2,1-5H3;1H/t20-,27+,35+,36-,37+,40?,42-,43+;/m0./s1
